US03987160
Ethyl 2-methoxy-3-methylbenzimidate borofluoride (28 g.) was mixed with a saturated anhydrous solution of ammonia in ethanol (46 ml.), the mixture was kept at room temperature in a stoppered vessel for 3 days and then evaporated to dryness in vacuo. The residue was dissolved in water (25 ml.) and treated with 5N sodium hydroxide solution (50 ml.). The solution was saturated with sodium chloride and extracted with diethyl ether. The extract was dried over potassium hydroxide and evaporated to give crude 2-methoxy-3-methylbenzamidine, m.p. 72°-74° C. This was dissolved in anhydrous ethanol (40 ml.) and the solution treated with a saturated anhydrous solution of hydrogen chloride in diethyl ether (100 ml.), and diluted with anhydrous diethyl ether (100 ml.). The solid which separated was filtered off and washed with anhydrous diethyl ether to give 2-methoxy-3-methylbenzamidine hydrochloride (17.8 g.), m.p. 208°-209° C. (with decomposition).

reactant | Ethyl 2-methoxy-3-methylbenzimidate | COC1=C(C(OCC)=N)C=CC=C1C | C11H15NO2
reactant | ammonia | N | H3N
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 46 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-methoxy-3-methylbenzamidine hydrochloride | 17.8 g | Cl.COC1=C(C(=N)N)C=CC=C1C | InChI=1S/C9H12N2O.ClH/c1-6-4-3-5-7(9(10)11)8(6)12-2;/h3-5H,1-2H3,(H3,10,11);1H
